US08076475B2
Preparation of 3-(2-Pyridinylamino)-1-Propanol
Charge 2-chloropyridine (1.0 equiv) and 3-aminopropan-1-ol (2.2 equiv, 1.5 volumes, 1.5 wt equiv) and mix thoroughly. Purge oxygen from the system by applying vacuum (ca −10 psi) to the system and backfilling with nitrogen three times. Heat the solution to 150° C. and hold for 13-16 h under a nitrogen atmosphere. The light yellow to yellow reaction mixture is then cooled to 18-23° C. and water (1.0 volume, 1.0 wt equiv) is added. Extract the mixture three times with i-PrOAc (3×5.0 volumes, 3×4.4 wt equiv). Combine the organic extracts and wash with water (0.5 volumes, 0.5 wt equiv). Concentrate the i-PrOAc solution in vacuo to minimum stir. Tert-butyl methyl ether (5.0 volumes, 3.7 wt equiv) is used to dissolve the residual oil. Add seed crystals (0.1 wt %) of the pure product and hold at 18-23 for 5 h. Cool the mixture to 0-5° C. and hold for 1-2 h. Isolate the crystalline product by filtration and wash twice with tent-butyl methyl ether (2×2 volumes, 2×1.5 wt equiv) at 5-10° C. Dry 3-(2-pyridinylamino)-1-propanol at 25-30° C. under reduced pressure. Percent yield range observed: 60-70%.

reactant | 2-chloropyridine | 1.0 equiv | ClC1=NC=CC=C1 | C5H4ClN
reactant | 3-aminopropan-1-ol | 2.2 equiv | NCCCO | C3H9NO
reactant | oxygen | O=O | O2
solvent | water | O | H2O
product | 3-(2-Pyridinylamino)-1-Propanol | N1=C(C=CC=C1)NCCCO | C8H12N2O
